US06951888B2
(b) 1-(3,4-dihydroxy-2-methoxyphenyl)-2-(1,1-dimethyl-2-phenylethylamino)ethanone
34 g of the HCl salt of 2-(1,1-dimethyl-2-phenylethylamino)-1-(4-methoxy-2,2-diphenylbenzo[1,3]dioxol-5-yl)ethanone is refluxed in 340 mL of 15% methanolic hydrochloric acid for 2 hours. Then the solvent is distilled off under reduced pressure and the residue is dissolved in ethyl acetate. The solid precipitated is suction filtered and washed with ethyl acetate and diethyl ether. Yield: 18 g (77%, hydrochloride); melting point: 192° C.-196° C.

reactant | 2-(1,1-dimethyl-2-phenylethylamino)-1-(4-methoxy-2,2-diphenylbenzo[1,3]dioxol-5-yl)ethanone | CC(CC1=CC=CC=C1)(C)NCC(=O)C1=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)OC | C32H31NO4
solvent | hydrochloric acid | 340 mL | Cl | ClH
solvent | HCl | 34 g | Cl | ClH
product | 1-(3,4-dihydroxy-2-methoxyphenyl)-2-(1,1-dimethyl-2-phenylethylamino)ethanone | OC=1C(=C(C=CC1O)C(CNC(CC1=CC=CC=C1)(C)C)=O)OC | C19H23NO4
